US05508416
In the above method, 2-(methylthio)benzamide is produced from 2-(methylthio)benzoylchloride; oxidized with periodic acid to 2-(methylsulfinyl)benzamide; and cyclized in the presence of thionyl chloride to yield a 1,2-benzisothiazol-3-one.

reactant | periodic acid | I(=O)(=O)(=O)O | HIO4
reactant | 2-(methylsulfinyl)benzamide | CS(=O)C1=C(C(=O)N)C=CC=C1 | C8H9NO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1,2-benzisothiazol-3-one | S1NC(C2=C1C=CC=C2)=O | C7H5NOS
